US07737153B2
4-[(2-Amino-6-chloropyrimidin-4-yl)amino]benzonitrile
300 mg (1.83 mmol) of 2-amino-4,6-dichloropyrimidine and 216 mg (1.83 mmol) of 4-aminobenzonitrile are suspended in 6 ml of water. 180 μl of concentrated hydrochloric acid are added, and the mixture is stirred at 100° C. overnight. The precipitate is filtered off with suction.

reactant | 2-amino-4,6-dichloropyrimidine | 1.83 mmol, 300 mg | NC1=NC(=CC(=N1)Cl)Cl | C4H3Cl2N3
reactant | 4-aminobenzonitrile | 1.83 mmol, 216 mg | NC1=CC=C(C#N)C=C1 | C7H6N2
reactant | hydrochloric acid | 180 μl | Cl | ClH
solvent | water | 6 ml | O | H2O
product | 4-[(2-Amino-6-chloropyrimidin-4-yl)amino]benzonitrile | NC1=NC(=CC(=N1)NC1=CC=C(C#N)C=C1)Cl | C11H8ClN5
